US05726341
Copper titration value is used to measure the extent of biodegradation of the chelating agents during the procedure. Titration is performed using ammonium purpurate (indicator for complexometric titration, commercially available from Aldrich Chemical Co., Inc. under the trade designation Murexide) as the indicator at approximately pH 8, and using sodium acetate as buffer. Titration of 2.0 mg HEIDA (0.0105 moles) in 100 mL water with 0.01 molar copper chloride gives an endpoint of 1.06 mL, representing a 1:1 chelation of copper. Analysis is performed daily for a period of 28 days.

reactant | ammonium purpurate | C1(=C(NC(=O)NC1=O)[O-])N=C2C(=O)NC(=O)NC2=O.[NH4+]
reactant | Murexide | C1(=C(NC(=O)NC1=O)O)N=C2C(=O)NC(=O)NC2=O.N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
catalyst | Copper | [Cu] | Cu
catalyst | copper chloride | 0.01 molar | [Cu](Cl)Cl
product | HEIDA | 0.0105 moles, 2.0 mg | C(CO)N(CC(=O)O)CC(=O)O | C6H11NO5
